US07745438B2
(2R,5R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-butyryloxymethyl-morpholine-4-carboxylic acid tert-butyl ester
Dissolve (2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-butyryloxymethyl-morpholine-4-carboxylic acid tert-butyl ester (295 mg, 0.397 mmol) in ethanol (29 mL). Add 20% palladium hydroxide on carbon (330 mg) and stir under 1 atmosphere of hydrogen gas for 48 hours. Filter through a filtering agent and wash with ethanol. Concentrate the filtrate to give the desired compound as a white foam (188 mg, 100%).

reactant | (2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-butyryloxymethyl-morpholine-4-carboxylic acid tert-butyl ester | 0.397 mmol, 295 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)COC(CCC)=O | C44H52F2N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 29 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 330 mg | [OH-].[OH-].[Pd+2]
product | (2R,5R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-butyryloxymethyl-morpholine-4-carboxylic acid tert-butyl ester | 188 mg, 100% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)COC(CCC)=O | C23H34F2N2O6
